US06573293B2
{[4-Methyl-5-(5-methylsulfamoyl-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-3-carbonyl]-amino}-acetic Acid
A mixture of [(5-formyl-4-methyl-1H-pyrrole-3-carbonyl)-amino]-acetic acid ethyl ester (0.142 g, 0.59 mmol) and 1N NaOH (1.2 mL) in methanol (10 mL) was stirred at room temperature for 1 hr. The reaction was concentrated and the residue was condensed with 5-methylaminosulfonyl-2-oxindole (0.13 g, 0.48 mmol) and piperidine (0.12 mL) in ethanol (12 mL) to give 0.11 g (52%) of the title compound.

reactant | [(5-formyl-4-methyl-1H-pyrrole-3-carbonyl)-amino]-acetic acid ethyl ester | 0.59 mmol, 0.142 g | C(C)OC(CNC(=O)C1=CNC(=C1C)C=O)=O | C11H14N2O4
reactant | NaOH | 1N, 1.2 mL | [OH-].[Na+]
reactant | 5-methylaminosulfonyl-2-oxindole | 0.48 mmol, 0.13 g | CNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C9H10N2O3S
reactant | piperidine | 0.12 mL | N1CCCCC1 | C5H11N
solvent | methanol | 10 mL | CO | CH4O
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | {[4-Methyl-5-(5-methylsulfamoyl-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-3-carbonyl]-amino}-acetic Acid | 0.11 g, 52% | CC=1C(=CNC1C=C1C(NC2=CC=C(C=C12)S(NC)(=O)=O)=O)C(=O)NCC(=O)O | C18H18N4O6S
